US07989438B2
Step 1: tert-butyl (2-hydroxy-1,1-dimethylethyl)methylcarbamate
A solution of N-(tert-butoxycarbonyl)-N,2-dimethylalanine in THF (0.17 M) was treated at RT with BH3-DMS complex in THF (10 eq., 2M) and the mixture was stirred at 45° C. for 8 h. The reaction was carefully quenched with H2O and the pH adjusted to 9 with 2M aq. Na2CO3. The mixture was then extracted with EtOAc and washed with brine. After drying over Na2SO4, the crude material was purified by FC (10-50% EtOAc in PE) to afford the product. (ES+) m/z 204 (M+H)+.

reactant | N-(tert-butoxycarbonyl)-N,2-dimethylalanine | C(C)(C)(C)OC(=O)N(C(C)(C(=O)O)C)C | C10H19NO4
solvent | THF | 0.17 M | C1CCOC1 | C4H8O
solvent | THF | 2M, 10 eq. | C1CCOC1 | C4H8O
product | tert-butyl (2-hydroxy-1,1-dimethylethyl)methylcarbamate | OCC(C)(C)N(C(OC(C)(C)C)=O)C | C10H21NO3
